US06486156B1
A solution of methyl 1-[5-methyl-3-(4-fluorophenyl)-thien-2-yl]methanoate (12.9 g; 0.05 mol), N-bromosuccinimide (11.02 g; 0.0619 mol) and 2-2′-azobisisobutyronitrile (0.339 g; 2.06 mmol) in Cl4 (300 ml) was reflux under argon atmosphere for 90 minutes under UV irradiation. After filtration of the precipitate, the filtrate was evaporated to dryness to give methyl 1-[5-bromomethyl-3-(4-fluorophenyl)-thien-2-yl]methanoate as a solid which was used in the next step without purification.

reactant | methyl 1-[5-methyl-3-(4-fluorophenyl)-thien-2-yl]methanoate | 0.05 mol, 12.9 g | CC1=CC(=C(S1)C(=O)OC)C1=CC=C(C=C1)F | C13H11FO2S
reactant | N-bromosuccinimide | 0.0619 mol, 11.02 g | BrN1C(CCC1=O)=O | C4H4BrNO2
product | methyl 1-[5-bromomethyl-3-(4-fluorophenyl)-thien-2-yl]methanoate | BrCC1=CC(=C(S1)C(=O)OC)C1=CC=C(C=C1)F | C13H10BrFO2S
